US05633279
A mixture of 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-one (0.17 g) and cerium trichloride heptahydrate (0.172 g) in tetrahydrofuran/methanol (12 mL, 4/1) was treated with sodium borohydride (0.035 g). After 0.5 hours, the reaction was diluted with ethyl acetate and washed with brine. Drying over magnesium sulfate was followed by filtration and solvent removal. Chromatography (hexanes/methylene chloride/ether, 1/1/1) gave the product 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-ol (0.088 g) as a solid m.p. 108.0°-111.5° C.

reactant | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-one | 0.17 g | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=C(C(CC1)=O)C | C24H24O7S
reactant | cerium trichloride heptahydrate | 0.172 g | O.O.O.O.O.O.O.[Cl-].[Cl-].[Cl-].[Ce+3]
reactant | sodium borohydride | 0.035 g | [BH4-].[Na+]
solvent | tetrahydrofuran methanol | 12 mL | O1CCCC1.CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-2-methylcyclopent-2-en-1-ol | 0.088 g | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=C(C(CC1)O)C | C24H26O7S
